Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Victo___ / metformin
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
___ Left Heart Catheterization

 
History of Present Illness:
___ y/o female with PMHx of CAD (s/p NSTEMI in ___ with DES 
placed to mid-RCA; PCI of the LAD and RCA in ___ in the s/o 
NSTEMI as well), sCHF (EF 40-45%), hypertension, hyperlipidemia, 
and diabetes who was brought in by EMS after she was called ___ 
due to worsening SOB. Pt started developing SOB during recent 
trip to ___, starting about a week ago. The SOB was 
occuring with walking but would occur with activity, but in a 
very inconsistent manner. This was not associated with CP, n/v, 
shoulder/jaw pain, or abd pain. No f/c, for a little she thought 
it may be asthma as it was worse outside, took Flovent. Over the 
last week, the SOB had been worsening. Dry weight around 90kg. 
She thinks she may have gained 3 pounds in the past few days. 
She notes that she maintained her diet but ate out 33% of the 
time while in ___. She called her Cardiologist and they 
recommended stress TTE (___), which she did not have. She flew 
home on ___. She continued to have sxs but on ___, she 
was laying down and she developed SOB, she needed to sit up, and 
as a result, she called EMS. While wiaitng for EMS, she think 
she must have passed out. She was found in her home unresponsive 
and bradycardic to ___ by EMS. Placed on NRB, went tachy to 
120s, and started moaning. 

In the ED, she was continued on BiPap, given sl nitro and also a 
nitro gtt, and nebs with quick improvement in mental status and 
resp status.  
Initial VS: 96 112 153/90 30 95% RA.  
-Events as above, was also given Lasix and weaned off Nitro gtt  

-CXR c/e pulmonary edema  
-Labs notable for: Cr at baseline, hepatocellular pattern of 
transaminitis, trop of 0.24, MB of 20, and BNP of 5k (2x higher 
then previous value), lactate normalized  
VS on transfer: 76 99/40 22 96 3L NC % Nasal Cannula  

On the floor, patient reports that she doing much better. She 
was not given lasix overnight in the setting of soft BPs. She 
was otherwise weaned off oxygen. She no longer has SOB. Her Hct 
notably decreased from 35.4->28.3, but pt reports no bleeding or 
light-headedness.

 
Past Medical History:
Type 2 diabetes  
Hypertension
CAD: cardiac catheterization on ___ showed three vessel 
disease involving her LAD, right coronary, and circumflex  
coronary artery. The patient received percutaneous transluminal 
coronary angioplasties to the LAD and right coronary artery as 
well as one stent to the mid LAD lesion of 90% and two stents to 
the proximal right coronary artery with no complications. During 
this cardiac catheterization, through left ventriculography, the 
patient's ejection fraction was noted to be 25% with evidence of 
anterolateral akinesis and otherwise hypokinetic globally. A 
repeat cath in ___ showed no significant stenoses.  
Hyperlipidemia  
Rheumatoid Arthritis  
Asthma  
Paget disease of the nipple in ___, s/p resection of nipple-  

areolar complex and radiation treatments  
Cholecystectomy  
Mild transaminitis and u/s consistent with NASH in ___
 
Social History:
___
Family History:
Father suffered his first myocardial infarction at the age of 
___. He died from a myocardial infarction at the age of ___. Her 
mother had a pacemaker inserted  
at the age of ___ and died at the age of ___.  

 
Physical Exam:
On Admission:
VS: 99.3/99.3; 89-122/39-60; 80-88; 18; 99-100% RA  
GENERAL: Pleasant, elderly F in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 11 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Distant heart sounds. RR, normal S1, S2. I/VI holosystolic 
murmur best heard at RLSB. No r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Moderate bibasilar 
crackles. No wheezes or rhonchi.  
ABDOMEN: Obese, Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: 1+ pitting edema in ___, equal bilaterally. No 
clubbin, cyanosis.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

On Discharge:
Vitals: 98.3 126/47 79 18 955 on RA
GENERAL: Pleasant, elderly F in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 7 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Distant heart sounds. RR, normal S1, S2. I/VI holosystolic 
murmur best heard at RLSB. No r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB. No wheezes or 
rhonchi.  
ABDOMEN: Obese, Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No edema. No clubbin, cyanosis.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 
Pertinent Results:
On Admission:

 
Brief Hospital Course:
___ y/o female with PMHx of CAD (s/p NSTEMI in ___ with DES 
placed to mid-RCA; PCI of the LAD and RCA in ___ in the s/o 
NSTEMI as well), sCHF (EF 40-45%), hypertension, hyperlipidemia, 
and diabetes who was brought in by EMS after she was called ___ 
due to worsening SOB.

#CHF: Pt was found to be fluid overloaded and started on 
diuresis in the ED. Shortly after arrival to the floor, pt was 
triggered for acute dypsnea, and transferred to the CCU. She was 
aggressively diuresed, with symptomatic improvement. Over the 
course of the hospitalization, she was net negative >5L. At 
discharge, weight was 98.5kg. Pt note, pt's carvedilol, 
quinapril and torsemide were decreased in the setting of soft 
blood pressures.

#NSTEMI: On admission, pt was found to have a stably elevated 
tropons (0.24->0.31->0.29), concerning for possible NSTEMI. She 
was started on a heparin drip, but did not receive a 
catheterization immediately due to her acute-onset SOB. While in 
the CCU, she had a troponin elevation from 0.29->0.68. She 
underwent LHC on ___ and was found to have 85% stenosis or 
mid RCA and 99% in-stent stenosis in ostial RCA. DES was placed 
in the ostial RCA lesion. Post-procedurally, pt did well, and 
her SOB resolved. She was discharged with a plan to follow up 
with cardiology.

# ?Afib: Pt had a brief (<20 seconds) episode of wide complex 
rhythm while in the CCU, thought to be SVT with abberancy.

# Transaminitis: Pt was found to have slightly elevated 
transaminases on admission, felt to be secondary to congestive 
hepatopathy in the setting of NASH. Transaminases trended down 
in the setting of diuresis.

# HTN: Pt's carvedilol and quinapril were decreased during this 
hospitalization in the setting of soft blood pressures.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Carvedilol 12.5 mg PO BID 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Atorvastatin 80 mg PO DAILY 
7. Quinapril 20 mg PO DAILY 
8. Levemir 12 Units Bedtime
Insulin SC Sliding Scale using Novlog Insulin
9. Torsemide 10 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Levemir 12 Units Bedtime
Insulin SC Sliding Scale using Novlog Insulin
5. Levothyroxine Sodium 125 mcg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Carvedilol 6.25 mg PO BID 
8. Quinapril 5 mg PO DAILY 
9. Torsemide 5 mg PO DAILY (decreased in the setting of 
creatinine increase on day of discharge--will likely need to be 
increased as an outpatient).
10. Outpatient Lab Work
pls do chem7 on ___ including Mg, Phos, Ca. 
pls fax results to Dr. ___ at Fax: ___.
Diagnosis: CHF

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-Non-ST elevation myocardial infarction s/p cardiac 
catheterization and drug-eluting stent placement
-Congestive heart failure

Secondary:
Diabetes
Chronic anemia
Hypothyroidism
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were admitted to ___ 
shortness of breath. ___ were found to have too much fluid in 
your body, and ___ were sent to the ICU to help remove the 
fluid. We also found that one of the stents in your heart had 
been blocked off, and ___ had a catheterization to fix this.

Please weigh yourself everyday. If ___ notice weight gain about 
___ lbs, call your doctor. 

___ should follow up with your primary care physician when ___ 
leave, and we have set ___ up with a follow up appointment. We 
have also set ___ up with an appointment to see your new 
cardiologist.

It was a pleasure to help care for ___ during this 
hospitalization, and we wish ___ all the best in the future.

Sincerely,
Your ___ Team
 
Followup Instructions:
___